US06664291B2
N-{4-[3-(4-Fluoro-benzenesulfonyl)-4-hydroxy-phenoxy]-3,5-dimethyl-phenyl}-2-methyl-malonamic acid
To a solution of N-{4-[3-(4-Fluoro-benzenesulfonyl)-4-hydroxy-phenoxy]-3,5-dimethyl-phenyl}-2-methyl-malonamic acid methyl ester (155 mg, 0.31 mmol) in H2O/MeOH (1/1, 4 mL) was added 1N NaOH (0.6 mL, 0.6 mmol). After stirring at room temperature for 1 h, the solution was diluted with EtOAc (15 mL) and extracted with 0.1 N NaOH (3×10 mL). The combined basic extracts were acidified with 1M HCl and extracted with EtOAc (3×15 mL). The organic extracts were combined, washed with brine, dried and concentrated to give the title compound of Step B and Example 4-4 (131 mg) as a solid. 1H NMR (400 MHz, CD3OD) δ 7.98-7.95 (m, 2H), 7.35 (s, 2H), 7.27-7.22 (m, 3H), 6.93-6.90 (dd, 1H), 6.80 (d, 1H), 3.57-3.52 (q, 1H), 2.05 (s, 6H), 1.41 (d, 3H). MS (ES31) Calc: 487.1, Found: 485.9 (M−1).

reactant | N-{4-[3-(4-Fluoro-benzenesulfonyl)-4-hydroxy-phenoxy]-3,5-dimethyl-phenyl}-2-methyl-malonamic acid methyl ester | 0.31 mmol, 155 mg | COC(C(C(=O)NC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)O)S(=O)(=O)C1=CC=C(C=C1)F)C)C)=O | C25H24FNO7S
reactant | NaOH | 0.6 mmol, 1N, 0.6 mL | [OH-].[Na+]
solvent | H2O MeOH | 4 mL | O.CO
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | N-{4-[3-(4-Fluoro-benzenesulfonyl)-4-hydroxy-phenoxy]-3,5-dimethyl-phenyl}-2-methyl-malonamic acid | FC1=CC=C(C=C1)S(=O)(=O)C=1C=C(OC2=C(C=C(C=C2C)NC(C(C(=O)O)C)=O)C)C=CC1O | C24H22FNO7S
